US04021461
Sodium ethoxide (9 g. sodium in 600 ml. of ethanol) is added slowly to a mixture of 42 g. of dihydrocitronellal and 75 g. of diethyl 3-ethoxycarbonyl-2-methylprop-2-enyl phosphonate (about 49% trans) in one liter of dimethylformamide, under nitrogen and at 0°, with stirring. The mixture is allowed to stand overnight at about 5° and the reaction worked up by extraction with ether, washing with water and brine and filtering through Florisil to yield ethyl 3,7,11-trimethyldodeca-2,4-dienoate as a cis/trans mixture, mostly trans,trans.

reactant | Sodium ethoxide | 600 ml, 9 g | [O-]CC.[Na+]
reactant | dihydrocitronellal | CC(C)CCCC(C)CC=O | C10H20O
solvent | dimethylformamide | one liter | CN(C=O)C | C3H7NO
product | ethyl 3,7,11-trimethyldodeca-2,4-dienoate | CC(=CC(=O)OCC)C=CCC(CCCC(C)C)C | C17H30O2
